US05532240
To a mixture of 6.7 g of 4,5,6,7-tetrahydro-8H-thieno[2,3-c]azepin-8-one and 4.5 g of sodium borohydride in 70 ml of tetrahydrofuran was added boron trifluoride-ether complex dropwise under ice-cooling and the mixture was refluxed under heating for an hour. The mixture was poured into water, washed with chloroform, made alkaline with 10% potassium hydroxide solution and extracted with chloroform. The extract was washed with water, dried and concentrated to give 4.1 g of 5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine as an oil.

reactant | 4,5,6,7-tetrahydro-8H-thieno[2,3-c]azepin-8-one | 6.7 g | S1C=CC2=C1C(NCCC2)=O | C8H9NOS
reactant | sodium borohydride | 4.5 g | [BH4-].[Na+]
reactant | water | O | H2O
solvent | tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
product | 5,6,7,8-tetrahydro-4H-thieno[2,3-c]azepine | 4.1 g | S1C=CC2=C1CNCCC2 | C8H11NS
